US05962292
The enzyme reaction using purified L-proline-3-hydroxylase obtained in Example 5 was carried out. The reaction mixture was composed of 200 mM TES buffer (pH 7.0), 20 mM L-proline, 20 mM 2-ketoglutarate, 5 mM L-ascorbic acids 1 mM, ferrous sulfate, and 106 U of purified enzyme preparation, the total volume being 100 μl. The reaction was carried out at 35° C. for 30 minutes. As a result of the reaction, 18 mM (2.4 g/l) of cis-3-hydroxy-L-proline was produced in the reaction mixture.

reactant | L-proline | 20 mM | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 2-ketoglutarate | 20 mM | O=C(C(=O)[O-])CCC(=O)[O-]
product | cis-3-hydroxy-L-proline | 18 mM | O[C@H]1[C@H](NCC1)C(=O)O | C5H9NO3
